US07504403B2
{2-[3-(Benzhydrylidene-amino)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester:
A suspension of [2-(3-bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (750 mg, 2.39 mmol), benzophenone imine (0.44 mL, 2.63 mmol), sodium tert-butoxide (298 mg, 3.1 mmol), bis(diphenylphosphino)-1,1′-binaphthyl (45 mg, 0.07 mmol), palladium acetate (16 mg, 0.07 mmol), and toluene (7.5 mL) was heated to reflux for 3 h while stirring under an atmosphere of nitrogen. Reaction diluted with ether and organics washed with water and saturated sodium chloride. Product isolated as a viscous yellow oil after purification on silica. M+1=415.

reactant | [2-(3-bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 2.39 mmol, 750 mg | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)Br)C)=O | C14H20BrNO2
reactant | benzophenone imine | 2.63 mmol, 0.44 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 3.1 mmol, 298 mg | CC(C)([O-])C.[Na+]
reactant | bis(diphenylphosphino)-1,1′-binaphthyl | 0.07 mmol, 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C=1C(=C(C2=CC=CC=C2C1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | ether | CCOCC | C4H10O
catalyst | palladium acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
product | {2-[3-(Benzhydrylidene-amino)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C27H30N2O2
